US05015655
(1-azabicyclo-[2,2,2]-octane-3-yl)-ethanone O-2-propynyloxime
1.8 g of 3-acetyl quinuclidine hydrochloride and 1.02 g of O-2-propynyl-hydroxylamine hydrochloride are heated for 20 minutes to reflux in 30 cm3 of methanol. After evaporating to dryness, the residue is chromatographed on silica (eluant: methanol-ethyl ether). An aqueous solution of potassium carbonate is added and extraction is carried out with ethyl acetate. The extracts are dried and distilled at 170° C. under 0.2 mbar. After cooling, 1.1 g of expected product is obtained. M.p.=56°-58° C.

reactant | 3-acetyl quinuclidine hydrochloride | 1.8 g | Cl.C(C)(=O)C1CN2CCC1CC2
reactant | O-2-propynyl-hydroxylamine hydrochloride | 1.02 g | Cl.C(C#C)ON
solvent | methanol | 30 cm3 | CO | CH4O
product | (1-azabicyclo-[2,2,2]-octane-3-yl)-ethanone O-2-propynyloxime | 1.1 g | C(C#C)ON=C(C)C1CN2CCC1CC2 | C12H18N2O
